### PR TITLE
refactor: Rising and lowering indices with notation

### PR DESCRIPTION
**Pull request by jstoobysmith**
Define `toDualAtIndex` which rises or lowers a given index of a tensor. 
Use the elaborator to enable the notation `u | α τ(β)` for e.g. rising the second index. 
Add some test cases, and some explicit examples.

### CODE REVIEW

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 1]
```diff
@@ -468,6 +473,49 @@ lemma fin_cast_isReindexing (n n1 : ℕ) {c : Fin n → C} (h : n1 = n) :
   · intro i
     rfl
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/Reindexing.lean:475]: Maybe a docstring would help with following this proof? 

```suggestion
/-- Contracting the `i`-th index of a tensor with the first index of an appended metric tensor 
  is, up to a cycle permutation, a reindexing to the color list where the `i`-th index is 
  replaced by its dual. -/
```

**Review by nateabr — CHANGES_REQUESTED** [review]
The changes look great to me, only one minor change would help.

**Comment by jstoobysmith** [comment]
Many thanks for reviewing @nateabr! I've incorporated your suggestion. I also made some structural changes to the Elab.lean file to make things hopefully more manifest. Would you mind taking another look?

File: Physlib/Relativity/Tensors/Elab.lean
Comment (nateabr) [inline Physlib/Relativity/Tensors/Elab.lean:374]: Since the index signature logic is being ported through `TensorExpressionOperator`, are the index tree scanning functions above still required?

From my understanding this was required with the previous design, so maybe the above could be deleted?

**Review by nateabr — COMMENTED** [review]
This refactor  overall is fantastic! 

I learned alot about Lean metaprogramming just working this refactor and the new `TensorExpressionOperator` type. 

I had a small question regarding the refactor that I've placed as a comment.

**Comment by nateabr** [comment]
awaiting-author

**Comment by nateabr** [comment]
t-relativity

File: Physlib/Relativity/Tensors/Elab.lean
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Elab.lean:374]: Awesome! Yep they can be removed - done :).

**Comment by jstoobysmith** [comment]
Addressed comment + fixed linters 

- awaiting-author

**Comment by jstoobysmith** [comment]
-awaiting-author

**Review by nateabr — APPROVED** [review]
Amazing, I humbly submit my first approval to physlib ahahaha. 

(I hope this helps you merge)

File: Physlib/Relativity/Tensors/Reindexing.lean [hunk 2]
```diff
@@ -468,6 +473,52 @@ lemma fin_cast_isReindexing (n n1 : ℕ) {c : Fin n → C} (h : n1 = n) :
...
+  replaced by its dual. -/
+lemma contr_two_rotate  {c : Fin n → C}  (i : Fin n) : IsReindexing
+    ((Fin.append c ![S.τ (c i), S.τ (c i)] ∘
+      (Fin.natAdd n (0 : Fin 2)).succSuccAbove (Fin.castAdd 2 i)))
+    (Function.update c i (S.τ (c i)))
+    (Fin.cycleIcc i ⟨n - 1, by have := i.prop; omega⟩).symm := by
+  haveI : NeZero n := ⟨by have := i.prop; omega⟩
+  set j : Fin n := ⟨n - 1, by have := i.prop; omega⟩ with hj
+  refine ⟨(Equiv.symm _).bijective, fun x => ?_⟩
+  have key : ∀ y : Fin n, Fin.append c ![S.τ (c i), S.τ (c i)]
```
Comment (zhikaip) [inline Physlib/Relativity/Tensors/Reindexing.lean:486]: can you put this entire have block before the refine? personally I prefer to have the context ready, then have the proof body in one place so it's easier to follow the actual proof structure

**Review by zhikaip — CHANGES_REQUESTED** [review]
one minor comment, otherwise looks good to me, also thanks @nateabr for the review!

File: Physlib/Relativity/Tensors/Reindexing.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Reindexing.lean:486]: done

**Comment by jstoobysmith** [comment]
-awaiting-author

**Comment by nateabr** [comment]
@jstoobysmith what do we think about this? seems like this PR can get the reviewer-approve tag?

**Review by zhikaip — APPROVED** [review]
Thanks for the change (@nateabr do you mean to add the awaiting author tag or just reviewer approved?)

**Comment by nateabr** [comment]
Thanks for getting to this @zhikaip !! , I just added the awaiting-author to bring it to Joseph's attention, you are right I should've used the reviewer-approved tag instead.
